US07544813B2
Synthesis of 1-octadecyl-3-methylimidazolium 1,1,2,2-tetrafluoroethanesulfonate (Cation, imidazolium; Anion, Formula 1)
1-Octadecyl-3-methylimidazolium chloride (17.0 g, 0.0458 moles) was partially dissolved in reagent-grade acetone (200 ml) in a large round-bottomed flask and stirred vigorously. Potassium 1,1,2,2-tetrafluoroethanesulfonate (TFES-K, 10.1 g, 0.0459 moles), was added to reagent grade acetone (200 ml) in a separate round-bottomed flask, and this solution was carefully added to the 1-octadecyl-3-methylimidazolium chloride solution. The reaction mixture was heated at 60° C. under reflux for approximately 16 hours. The reaction mixture was then filtered using a large frit glass funnel to remove the white KCl precipitate formed, and the filtrate was placed on a rotary evaporator for 4 hours to remove the acetone.

reactant | 1-Octadecyl-3-methylimidazolium chloride | 0.0458 moles, 17.0 g | [Cl-].C(CCCCCCCCCCCCCCCCC)[N+]1=CN(C=C1)C
reactant | Potassium 1,1,2,2-tetrafluoroethanesulfonate | 0.0459 moles, 10.1 g | FC(C(F)F)(S(=O)(=O)[O-])F.[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-octadecyl-3-methylimidazolium 1,1,2,2-tetrafluoroethanesulfonate | FC(C(F)F)(S(=O)(=O)[O-])F.C(CCCCCCCCCCCCCCCCC)[N+]1=CN(C=C1)C | InChI=1S/C22H43N2.C2H2F4O3S/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-24-21-20-23(2)22-24;3-1(4)2(5,6)10(7,8)9/h20-22H,3-19H2,1-2H3;1H,(H,7,8,9)/q+1;/p-1
